US07199239B2
Intermediate 37: Ethyl [4-({butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate
To a solution of N-butyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (0.128 g, 0.44 mmol) In anhydrous CH2Cl2 (10 mL) was added ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate (0.121 g, 0.41 mmol) and triethylamine (0.122 mL, 0.87 mmol). The resultant mixture was stirred for 24 h at room temperature prior to addition of sulfonyl chloride (0.121 mg, 0.41 mmol) and triethylamine (0.122 mL, 0.87 mmol). After a further 18 h stirring at room temperature the reaction was diluted with water (10 mL) and extracted with CH2Cl2 (2×10 mL). The organic solution was dried (Na2SO4) and the solvents removed in vacuo. Purification by SPE (Silica, 10 g) eluting 49:1–19:1 cyclohexane:EtOAc afforded the title compound as a pale yellow oil (0.182 g).

reactant | N-butyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.44 mmol, 0.128 g | C(CCC)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C17H18F3N
reactant | ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate | 0.41 mmol, 0.121 g | ClS(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C | C11H13ClO5S
reactant | triethylamine | 0.87 mmol, 0.122 mL | C(C)N(CC)CC | C6H15N
reactant | sulfonyl chloride | 0.41 mmol, 0.121 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | triethylamine | 0.87 mmol, 0.122 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | Ethyl [4-({butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate | 0.182 g | C(CCC)N(S(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C28H30F3NO5S
